US04592866
2-[2-(1-Azetidinyl]ethyl-7-chloro-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepine-5(4H)-thione oxalate [1:1]
To a solution of 4.75 g (0.0164 mole) of 7-chloro-2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione in 40 ml of dimethyl sulfoxide was added 8.0 g of crushed potassium carbonate and 1.4 g (0.0246 mole) of azetidine. The flask was sealed and stirred at room temperature for 24 hr after which an additional 0.6 g (0.011 mole) of azetidine was added. After 24 hr, another 0.5 (0.009 mole) of azetidine was added and stirring continued at room temperature. After 48 hr, the entire reaction mixture was diluted with 200 ml of water and extracted with 2×100 ml of benzene. The organic extracts were combined, washed with 3×100 ml of water and 1×100 ml saturated sodium chloride, dried over sodium sulfate, filtered, and concentrated by rotary evaporation (65° C., 30 mm Hg). The residue was treated with oxalic acid in isopropyl alcohol to give 5.4 g (82%) of yellow crystals, m.p. 146°-150° C.

reactant | 7-chloro-2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione | 0.0164 mole, 4.75 g | ClC1=CC=2C(N(CC(OC2N=C1)CCCl)C)=S | C11H12Cl2N2OS
reactant | potassium carbonate | 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | azetidine | 0.0246 mole, 1.4 g | N1CCC1 | C3H7N
reactant | azetidine | 0.011 mole, 0.6 g | N1CCC1 | C3H7N
reactant | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
product | 2-(1-Azetidinyl]ethyl-7-chloro-2,3-dihydro-4-methylpyrido[3,2-f][1,4]-oxazepine-5(4H)-thione oxalate | 5.4 g, 82% | C(C(=O)O)(=O)O.N1(CCC1)CCC1OC2=C(C(N(C1)C)=S)C=C(C=N2)Cl | InChI=1S/C14H18ClN3OS.C2H2O4/c1-17-9-11(3-6-18-4-2-5-18)19-13-12(14(17)20)7-10(15)8-16-13;3-1(4)2(5)6/h7-8,11H,2-6,9H2,1H3;(H,3,4)(H,5,6)
